US08604055B2
(3,5-Bis-trifluoromethyl-benzyl)-[2-(cyclopentylmethyl-ethyl-amino)-quinolin-4-yl]-cyanamide (0.368 g, 0.689 mmol), sodium azide (0.049 g, 0.758 mmol), and zinc bromide (0.155 g, 0.689 mmol) were added to a round bottom flask under a N2 atmosphere. To this reaction mixture, water (8 mL) was added, and the resulting mixture was refluxed for 24 h with vigorous stirring. Afterwards, the reaction mixture was cooled to RT and a mixture of HCl (3N, 0.92 mL) and ethyl acetate was added. The vigorous stirring was continued until no solid was separated out and the aqueous layer had reached a pH of 1. The organic layer was separated and concentrated under vacuum. A solution of sodium hydroxide (0.25N, 6.25 mL) was added to the residue and was stirred for 30 minutes until the residue was dissolved, and a suspension of zinc hydroxide was formed. The suspension was filtered and washed with NaOH (1N), and the filtrate was acidified with 3N HCl dropwise to afford (3-{[(3,5-bis-trifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-methyl}-quinolin-2-yl)-cyclopentylmethyl-ethyl-amine as a yellow solid (0.140 g, yield: 35%).

reactant | (3,5-Bis-trifluoromethyl-benzyl)-[2-(cyclopentylmethyl-ethyl-amino)-quinolin-4-yl]-cyanamide | 0.689 mmol, 0.368 g | FC(C=1C=C(CN(C#N)C2=CC(=NC3=CC=CC=C23)N(CC)CC2CCCC2)C=C(C1)C(F)(F)F)(F)F | C27H26F6N4
reactant | sodium azide | 0.758 mmol, 0.049 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 8 mL | O | H2O
reactant | HCl | 3N, 0.92 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc bromide | 0.689 mmol, 0.155 g | [Br-].[Zn+2].[Br-]
product | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-methyl}-quinolin-2-yl)-cyclopentylmethyl-ethyl-amine | 0.140 g, yield: 35% | FC(C=1C=C(CN(C2=NN=NN2)CC=2C(=NC3=CC=CC=C3C2)N(CC)CC2CCCC2)C=C(C1)C(F)(F)F)(F)F | C28H29F6N7
